US07074801B1
4-(6-Iodo-1,3-benzothiazol-2-yl)butane nitrile
1.1 g of 4-(6-amino-1,3-benzothiazol-2-yl)butane nitrile synthesized according to a method described in JP-A 5–194440, 2 mL isoamyl nitrite, 0.96 g of copper (I) iodide and 2 mL diiodomethane were heated in tetrahydrofuran at 80° C. for 1 hour. After the solvent was removed, the residue was purified by NH silica gel column to give 888 mg of the title compound as colorless crystals.

reactant | 4-(6-amino-1,3-benzothiazol-2-yl)butane nitrile | 1.1 g | NC1=CC2=C(N=C(S2)CCCC#N)C=C1 | C11H11N3S
reactant | isoamyl nitrite | 2 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | diiodomethane | 2 mL | ICI | CH2I2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | copper (I) iodide | 0.96 g | [Cu]I
product | 4-(6-Iodo-1,3-benzothiazol-2-yl)butane nitrile | 888 mg | IC1=CC2=C(N=C(S2)CCCC#N)C=C1 | C11H9IN2S
